US08076345B2
F) (S)-2-(tert-Butyldimethylsilyloxy)-1-(2-methoxypyrimidin-5-yl)ethanamine
A mixture of (S)-5-(1-azido-2-(tert-butyldimethylsilyloxy)ethyl)-2-methoxypyrimidine (11.7 g, 37.7 mmol) in ethyl acetate (300 mL), and 10% Pd—C (70 mg) was stirred under H2 (1 atm) overnight. The catalyst was filtered off and the filtrate was concentrated to yield a light oil. The residue was purified by silica gel chromatography (0-50% MeOH/EtOAc) to afford a colorless oil.

reactant | (S)-5-(1-azido-2-(tert-butyldimethylsilyloxy)ethyl)-2-methoxypyrimidine | 37.7 mmol, 11.7 g | N(=[N+]=[N-])[C@H](CO[Si](C)(C)C(C)(C)C)C=1C=NC(=NC1)OC | C13H23N5O2Si
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd—C | 70 mg | [Pd] | Pd
product | (S)-2-(tert-Butyldimethylsilyloxy)-1-(2-methoxypyrimidin-5-yl)ethanamine | [Si](C)(C)(C(C)(C)C)OC[C@@H](N)C=1C=NC(=NC1)OC | C13H25N3O2Si
